US05512562
C. 2-(Benzofuran-7-yl)ethyl-N-methylamine
8.70 g benzofuran-7-yl-N-methylacetamide and 5.21 g (0.138 mol) sodiumborohydride were dissolved in 100 ml dioxane. Acetic acid was added dropwise to the chilled solution. Then, the reaction mixture was warmed slowly and refluxed for 1 h. After cooling to room temperature, 25 ml 6N HCl was added and the mixture was warmed to reflux for 5 min. The mixture was cooled, pH adjusted to 10 and the mixture was extracted with dichloromethane. The organic layer was washed with water and brine, dried over sodium sulfate and concentrated in vacuo. The remaining oil was distilled (B.p. 111-114° C/l mm Hg). The compound was obtained as colourless oil, 3.7 g (46%).

reactant | benzofuran-7-yl-N-methylacetamide | 8.70 g | O1C=CC2=C1C(=CC=C2)CC(=O)NC | C11H11NO2
reactant | sodiumborohydride | 0.138 mol, 5.21 g | [BH4-].[Na+]
reactant | Acetic acid | C(C)(=O)O | C2H4O2
reactant | HCl | 6N, 25 ml | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-(Benzofuran-7-yl)ethyl-N-methylamine | O1C=CC2=C1C(=CC=C2)CCNC | C11H13NO
